US06211215B1
In substantially the same manner as in Reference Example 31, phenylacetamide was allowed to react with 1,3-dichloroacetone to give 2-benzyl-4-chloromethyl oxazole. The yield was 33%. Recrystallization from hexane gave colorless prisms, mp 31-32° C.

reactant | phenylacetamide | C1(=CC=CC=C1)CC(=O)N | C8H9NO
reactant | 1,3-dichloroacetone | ClCC(=O)CCl | C3H4Cl2O
product | 2-benzyl-4-chloromethyl oxazole | yield was 33% | C(C1=CC=CC=C1)C=1OC=C(N1)CCl | C11H10ClNO
